US04042603
By treating 3,4'-dimethyldiphenyl ether under the same conditions as in Example 6 except that 5 ml of ethylene diacetate was added, 2.7 g (14 m. moles) of 2,7-dimethyldibenzofuran and 0.27 g (0.69 m. mole) of the dimer were obtained. The obtained 2,7-dimethyldibenzofuran melted at 82°-83° C. and was in the form of white needle crystals.

reactant | 3,4'-dimethyldiphenyl ether | CC1=CC=C(C=C1)OC2=CC=CC(=C2)C | C14H14O
reactant | ethylene diacetate | 5 ml | C(C)(=O)OCCOC(C)=O | C6H10O4
product | 2,7-dimethyldibenzofuran | 2.7 g | CC1=CC2=C(OC3=C2C=CC(=C3)C)C=C1 | C14H12O
